US09034900B2
Step 4: N-[3-(2,4-difluorophenoxy)-5-(1,5-dimethyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide
A mixture of N-[3-bromo-5-(2,4-difluorophenoxy)phenyl]ethanesulfonamide (70 mg, 0.17 mmol), 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (44 mg, 0.18 mmol), Pd(dppf)Cl2 (12 mg) and K3PO4 (92 mg, 0.42 mmol) in dioxane (1 mL) and water (133 uL) was purged with nitrogen, capped, and heated to 75° C. for 1 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by silica gel column chromatography using a gradient of MeOH (0 to 10%) in DCM to afford the title compound (69 mg, 94%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.13-1.22 (m, 3H) 2.07 (s, 3H) 3.08-3.20 (m, 2H) 3.50 (s, 3H) 6.65-6.70 (m, 1H) 6.92-6.96 (m, 1H) 7.05-7.10 (m, 1H) 7.12-7.19 (m, 1H) 7.28-7.37 (m, 1H) 7.47-7.55 (m, 1H) 7.56-7.59 (m, 1H) 7.87-7.95 (m, 1H) 9.76-9.94 (m, 1H). LCMS (M+H)+=435.

reactant | N-[3-bromo-5-(2,4-difluorophenoxy)phenyl]ethanesulfonamide | 0.17 mmol, 70 mg | BrC=1C=C(C=C(C1)OC1=C(C=C(C=C1)F)F)NS(=O)(=O)CC | C14H12BrF2NO3S
reactant | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 0.18 mmol, 44 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C13H20BNO3
reactant | K3PO4 | 0.42 mmol, 92 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 133 uL | O | H2O
catalyst | Pd(dppf)Cl2 | 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(2,4-difluorophenoxy)-5-(1,5-dimethyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide | 69 mg, 94% | FC1=C(OC=2C=C(C=C(C2)C2=CN(C(C(=C2)C)=O)C)NS(=O)(=O)CC)C=CC(=C1)F | C21H20F2N2O4S
